US04031093
5-Methoxysalicylamide (41.8 g., 0.250 mole) was dissolved in a solution of sodium (6.37 g., 0.277 g-atom) in ethanol (250 ml.). To the resulting cooled (ice-water) solution was added iodoethane (38.9 g., 0.250 mole) over a period of 20 minutes. The reaction mixture was allowed to warm to room temperature over 0.75 hour and then was heated under reflux for 19 hours. The mixture was concentrated and the residue triturated with water. The mixture was filtered and collected solid recrystallized from acetonitrile to give 2-ethoxy-5-methoxybenzamide (34.5 g., 70.7%), m.p. 128°-130°.

reactant | 5-Methoxysalicylamide | 0.250 mole, 41.8 g | COC1=CC=C(C(C(=O)N)=C1)O | C8H9NO3
reactant | iodoethane | 0.250 mole, 38.9 g | ICC | C2H5I
solvent | sodium | 6.37 g | [Na] | Na
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-ethoxy-5-methoxybenzamide | 34.5 g, 70.7% | C(C)OC1=C(C(=O)N)C=C(C=C1)OC | C10H13NO3
